US07812040B2
4-({trans-3-[2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-morpholine Dihydrochloride.
A solution of intermediate 45, 2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenol (0.77 g, 3.2 mmol) and potassium tert-butoxide (0.36 g, 3.2 mmol) in DMSO (15 mL) was heated to 90° C. under vigorous stirring in a flow of argon. The mixture was stirred at this temperature for 15 min. A solution of intermediate 41, cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate (0.4 g, 1.6 mmol) in DMSO (10 mL) and tetrabutylammonium bromide (1 g, 0.1 mmol) were added. The mixture was stirred at 90-100° C. for 2 h, cooled, and diluted with Et2O (50 mL). The solution was washed with water (50 mL), 1N NaOH (3×25 mL), brine, dried with Na2SO4, and evaporated. The residue was purified by chromatography (silica gel 63-100μ, 8 mL, CHCl3/MeOH 100:0→50:30). The obtained product was dissolved in ether, and 4M HCl/dioxane (0.48 mL) was added. The precipitate was separated by filtration, washed with ether, and dried in vacuo to give the title compound (290 mg, 48%) was obtained as white crystals. LCMS-data: 395.2, and 397.1 (M+H), 509.1 and 511.1 (M+FTA+H), (calculated for C21H31N2O2Cl 394.95). 1H NMR data (DMSO-d6): 10.83-11.74 (m, 2H, N+H2); 7.49 (s, 1H, Ar—H); 7.29 (s, 1H, Ar—H); 4.75-4.84 (m, 1H); 4.23-4.28 (m, 2H); 3.77-3.96 (m, 8H); 3.16-3.40 (m, 6H+H2O); 2.83-3.06 (m, 5H); 2.20-2.42 (m, 4H); 1.84-2.05 (m, 4H).

reactant | 2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenol | 3.2 mmol, 0.77 g | COC1=C(C(=CC(=C1)CN1CCCC1)Cl)O | C12H16ClNO2
reactant | potassium tert-butoxide | 3.2 mmol, 0.36 g | CC(C)([O-])C.[K+]
reactant | cis-3-(Morpholin-4-ylmethyl)cyclobutyl methanesulfonate | 1.6 mmol, 0.4 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CN1CCOCC1 | C10H19NO4S
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 0.1 mmol, 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-({trans-3-[2-Methoxy-6-chloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-morpholine Dihydrochloride | 290 mg, 48% | Cl.Cl.COC1=C(O[C@@H]2C[C@H](C2)CN2CCOCC2)C(=CC(=C1)CN1CCCC1)Cl | InChI=1S/C21H31ClN2O3.2ClH/c1-25-20-13-17(15-23-4-2-3-5-23)12-19(22)21(20)27-18-10-16(11-18)14-24-6-8-26-9-7-24;;/h12-13,16,18H,2-11,14-15H2,1H3;2*1H/t16-,18-;;
